US07754737B2
A solution of benzyl (S)-2-(t-butoxycarbonylamino)-3-cyclopentylpropylmethylcarbamate (550 mg) in TFA/CH2Cl2 (10 mL, 20% v/v) was stirred for 2 h at 5° C. The mixture was neutralized with sat'd aq NaHCO3 and extracted with CH2Cl2 (3×30 mL). The combined organic extracts were washed with brine (30 mL), dried over Na2SO4 and evaporated to give benzyl (S)-2-amino-3-cyclopentylpropylmethylcarbamate (420 mg) that was used in the next step without further purification.

reactant | benzyl (S)-2-(t-butoxycarbonylamino)-3-cyclopentylpropylmethylcarbamate | 550 mg | C(C)(C)(C)OC(=O)N[C@H](CN(C(OCC1=CC=CC=C1)=O)C)CC1CCCC1 | C22H34N2O4
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | TFA CH2Cl2 | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | benzyl (S)-2-amino-3-cyclopentylpropylmethylcarbamate | 420 mg | N[C@H](CN(C(OCC1=CC=CC=C1)=O)C)CC1CCCC1 | C17H26N2O2
